US04072696
The 1-amino-2-nitro-4-(2-phenoxyethoxy)benzene so obtained is treated with methoxycarbonyl isothiocyanate (as per Example XL) to afford 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-(2-phenoxyethoxy)benzene which is reduced with sodium hydrosulfite (as per Example XXI) or iron-ferrous sulfate (as per Example VII) to afford 1-(3-methoxycarbonyl-2-thioureido)-2-amino-4-(2-phenoxyethoxy)benzene. The latter compound is further reacted with another equivalent of methoxycarbonyl isothiocyanate to afford 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-(2-phenoxyethoxy)benzene.

reactant | 1-amino-2-nitro-4-(2-phenoxyethoxy)benzene | NC1=C(C=C(C=C1)OCCOC1=CC=CC=C1)[N+](=O)[O-] | C14H14N2O4
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
product | 1-(3-methoxycarbonyl-2-thioureido)-2-nitro-4-(2-phenoxyethoxy)benzene | COC(=O)NC(NC1=C(C=C(C=C1)OCCOC1=CC=CC=C1)[N+](=O)[O-])=S | C17H17N3O6S
